US04873224
4-(Benzothiazol-2-yl)semicarbazide
A solution of 4-nitrophenyl chloroformate, 5.04 g (25 mMole) in 25 ml of dry chloroform was added dropwise to a to a ice cooled, stirred solution of 2-aminobenzothiazole, 3.75 gm (25 mMole) in 50 ml of dry pyridine. The mixture was stirred at 0° C. for 45 minutes longer. Anhydrous hydrazine, 1.6 ml (250 mMole), was added rapidly to the stirred reaction mixture and the ice bath was removed. Stirring was continued for 3 hours at 22° C. Insolubles were filtered, rinsed with cold methanol and dissolved in dilute aqueous hydrochloric acid. Insolubles were filtered off and the aqueous solution was extracted with ethyl acetate. The aqueous solution was made basic, pH 9.5, by addition of aqueous sodium hydroxide. The insoluble product was filtered, washed with water, dried, and recrystallized from ethanol furnishing 1.35 g of 4-(benzothiazol-2-yl)-semicarbazide melting at 225° C. The product was characterized by nuclear magnetic resonance, mass spectra, infrared spectra and elemental analyses.

reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-aminobenzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | hydrazine | NN | H4N2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(Benzothiazol-2-yl)semicarbazide | S1C(=NC2=C1C=CC=C2)NC(NN)=O | C8H8N4OS
